US08106087B2
Synthesis of 2-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoic acid
To a solution of methyl 2-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoate (7.56 g, 17.6 mmol) in a mixture of THF/water (2/1 v/v, 180 mL) was added lithium hydroxide monohydrate (1.48 g, 35.2 mmol). The resulting mixture was stirred at ambient temperature overnight and concentrated in vacuo followed by the addition of water (150 mL). The mixture was extracted with of ethyl acetate/hexanes, 1/3 v/v, 50.0 mL). The water layer was acidified with 1 N HCl solution until the pH value reached 2. The precipitate was filtered and dried to give the title compound (7.30 g, 100%) as a white solid: mp>250° C.; 1H NMR (300 MHz, DMSO-d6) δ 13.25 (s, 1H), 7.95 (dd, 1H), 7.49 (dt, 1H), 7.37 (t, 1H), 7.24-7.16 (m, 2H), 7.11-6.98 (m, 2H), 6.80 (d, 1H), 6.68 (s, 1H), 6.36 (s, 1H), 5.91 (s, 2H), 5.37-5.19 (m, 2H), 4.88-4.68 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 177.6, 168.8, 156.0, 148.8, 143.0, 142.3, 137.6, 133.1, 132.1, 131.5, 129.9, 129.4, 127.7, 126.5, 124.2, 123.6, 120.1, 109.8, 103.8, 101.9, 93.8, 80.5, 58.0, 42.6.

reactant | methyl 2-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoate | 17.6 mmol, 7.56 g | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CC1=C(C(=O)OC)C=CC=C1 | C25H19NO6
reactant | lithium hydroxide monohydrate | 35.2 mmol, 1.48 g | O.[OH-].[Li+]
solvent | THF water | 180 mL | C1CCOC1.O
product | 2-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoic acid | 7.30 g, 100% | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CC1=C(C(=O)O)C=CC=C1 | C24H17NO6
